US07348354B2
[4-(3-Aminopropyl)-1-phenylcyclohexyl]dimethylamine
3-(4-Dimethylamino-4-phenyl-cyclohexyl)-acrylonitrile (400 mg, 1.57 mmole) was dissolved in methanol (25 ml). Nickel(II) chloride hexahydrate (747.6 mg, 3.14 mmole) was added to the solution. NaBH4 (594 mg, 15.7 mmole) was then added in portions with ice water cooling. A black precipitate was formed accompanied by evolution of hydrogen. Once addition was complete, stirring was continued at 20° C. for 1 h. Working up was performed by combining the reaction mixture with 1M hydrochloric acid (15 ml). The black precipitate was filtered out on Celite and thoroughly washed with 1M hydrochloric acid (3×7 ml). The hydrochloric, aqueous-methanolic solution was reduced to half its volume in order to remove the methanol. The remaining aqueous phase was extracted with ether (3×15 ml) to remove neutral substances. The batch was then alkalised (pH 11) by addition of 2M NaOH, resulting in the formation of a bulky precipitate which did not dissolve even on addition of EE. The precipitate was filtered out and washed with water (1×3 ml) and EE (3×5 ml). The two phases of the clear mother liquor were separated. The aqueous phase was extracted with EE (3×15 ml). The combined extracts were washed with NaCl-solution (2×10 ml), dried over sodium sulfate and the solvent removed by distillation. The resultant residue was the mixture of the diastereoisomers of [4-(3-aminopropyl)-1-phenylcyclohexyl]dimethylamine (203 mg, light yellow oil, 50%).

reactant | 3-(4-Dimethylamino-4-phenyl-cyclohexyl)-acrylonitrile | 1.57 mmole, 400 mg | CN(C1(CCC(CC1)C=CC#N)C1=CC=CC=C1)C | C17H22N2
reactant | NaBH4 | 15.7 mmole, 594 mg | [BH4-].[Na+]
reactant | hydrogen | [H][H] | H2
reactant | hydrochloric acid | 1M, 15 ml | Cl | ClH
solvent | methanol | 25 ml | CO | CH4O
catalyst | Nickel(II) chloride hexahydrate | 3.14 mmole, 747.6 mg | O.O.O.O.O.O.[Ni](Cl)Cl
product | [4-(3-Aminopropyl)-1-phenylcyclohexyl]dimethylamine | NCCCC1CCC(CC1)(C1=CC=CC=C1)N(C)C | C17H28N2
